US07320993B1
7-phenyl-heptylamine
Batch size: 11.0 g (34.2 mmol) 2-(7-phenyl-heptyl)-isoindol-1,3-dione and 3.4 g (68.4 mmol) hydrazine.hydrate in 100 ml ethanol.

reactant | 2-(7-phenyl-heptyl)-isoindol-1,3-dione | 34.2 mmol, 11.0 g | C1(=CC=CC=C1)CCCCCCCN1C(C2=CC=CC=C2C1=O)=O | C21H23NO2
reactant | hydrazine.hydrate | 68.4 mmol, 3.4 g | NN.O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 7-phenyl-heptylamine | C1(=CC=CC=C1)CCCCCCCN | C13H21N
